US07790898B2
[3-hydroxy-3-(3-methoxyphenyl)-piperidine-1-yl]-(3,4,5-trimethoxyphenyl)-methanone
The compound of Example 16 was prepared according to the general preparation protocol A from 3,4,5-trimethoxybenzoyl chloride and 3-(3-methoxy-phenyl)-piperidine-3-ol.

reactant | 3,4,5-trimethoxybenzoyl chloride | COC=1C=C(C(=O)Cl)C=C(C1OC)OC | C10H11ClO4
reactant | 3-(3-methoxy-phenyl)-piperidine-3-ol | COC=1C=C(C=CC1)C1(CNCCC1)O | C12H17NO2
product | [3-hydroxy-3-(3-methoxyphenyl)-piperidine-1-yl]-(3,4,5-trimethoxyphenyl)-methanone | OC1(CN(CCC1)C(=O)C1=CC(=C(C(=C1)OC)OC)OC)C1=CC(=CC=C1)OC | C22H27NO6
